US04962145
1,4-butanediol monomontanate
57.2 g 1,4-butanediol (0.636 mole), 254.2 g montanic acid and 0.4 g tin powder were heated to 210° C. as in Example 1 with application of a gentle vacuum. The vacuum was increased to 152 mbar over a period of 3 hours. The mixture had an acid value of 1.5. A brownish-yellow wax having a dropping point of 77° C. was obtained after cooling to 100° C., bleaching and filtering.

reactant | 1,4-butanediol | 0.636 mole, 57.2 g | C(CCCO)O | C4H10O2
reactant | montanic acid | 254.2 g | C(CCCCCCCCCCCCCCCCCCCCCCCCCCC)(=O)O | C28H56O2
reactant | tin | 0.4 g | [Sn] | Sn
product | 1,4-butanediol monomontanate | C(CCCCCCCCCCCCCCCCCCCCCCCCCCC)(=O)OCCCCO | C32H64O3
